US06187900B1
Synthesis of bis(3-hydroxypropyl)terephthalate (BHPT)
50.6 kg of terephthalic acid (TPA) and 30.2 kg of 1,3-propanediol (PDO) were charged in an esterification vessel and stirred thoroughly at a stirring rate of 130 rpm in the presence of an esterification catalyst. Nitrogen was then introduced at a flow rate of 4 L/min, and the reaction pressure was maintained at 2 kg/cm2G. The internal temperature of the esterification vessel was increased to 245° C. During the esterification process, the byproducts water and 1,3-PDO were separated by using a separation tower such that 1,3-PDO was introduced to the esterification reaction system and that water was made to flow out from the top of the tower, which is then cooled and recovered. The total esterification reaction time was 3.5 hours. The esterified product BHPT was cooled and crushed, by which the saponification value can be determined, and the saponification value was then converted to have a calculated esterification conversion of 98.1%. The reaction conditions are summarized in Table 1.

reactant | terephthalic acid | 50.6 kg | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | 1,3-propanediol | 30.2 kg | C(CCO)O | C3H8O2
product | bis(3-hydroxypropyl)terephthalate | OCCCOC(C1=CC=C(C(=O)OCCCO)C=C1)=O | C14H18O6
